US09447091B2
a) 1-(5-(5-(6-(benzyloxy)pyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-3-(furan-2-ylmethyl)urea
To a solution of 5-(5-(6-(benzyloxy)-1,6-dihydropyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine (75 mg, 0.148 mmol) in DCM was added furfuryl isocyanate (19 mg, 0.163 mmol, 1.1 eq.). The mixture was stirred overnight and quenched and extracted as in Example 2(b). The solvent was distilled off to afford the crude residue which was recrystallized in ether to afford the title compound in 86% yield (80 mg).

reactant | 5-(5-(6-(benzyloxy)-1,6-dihydropyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine | 0.148 mmol, 75 mg | C(C1=CC=CC=C1)OC1C=CC(=CN1)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)N)C=C1 | C31H24F2N4O
reactant | furfuryl isocyanate | 0.163 mmol, 19 mg, 1.1 eq. | C(C1=CC=CO1)N=C=O | C6H5NO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(5-(5-(6-(benzyloxy)pyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-3-(furan-2-ylmethyl)urea | 86% yield | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NC(=O)NCC=2OC=CC2)C=C1 | C37H27F2N5O3
